US04115417
Enantioselective hydrogenation of 3,7-dimethylocta-2,6-dienoic acid
Following the procedure of Example 8, with the exception of using a substrate/catalyst ratio of 15, the hydrogenation of 3,7-dimethylocta-2,6-dienoic acid (E/Z≃7) was carried out at -23° C. under 130 psig of H2. The reaction was stopped after one week and there was obtained 1.41g. (94% yield) of a mixture of 65% 3,7-dimethyloct-6-enoic acid and 35% 3,7-dimethylocta-2,6-dienoic acid. The rotation of this mixture was [α]D25 +4.59° (c. 5.04, CHCl3) and of the methyl ester was [α]D25 +3.05° (c. 5.08, CHCl3). The nmr of the ester showed a 6:1 ratio of R to S enantiomers in the 3,7-dimethyloct-6-enoic acid. The optical purity calculated from the rotation of the acid is 69%, and the enantiomeric excess determined from the nmr of the ester is 71%.

reactant | 3,7-dimethyloct-6-enoic acid | CC(CC(=O)O)CCC=C(C)C | C10H18O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3,7-dimethylocta-2,6-dienoic acid | CC(=CC(=O)O)CCC=C(C)C | C10H16O2
